US04883813
2-Methoxymethyl furan (120.4 g, 1.07 moles), anhydrous methanol (250 ml, 6.18 moles), anhydrous sodium carbonate (190 g), and methylene chloride (250 ml) were placed in a 3L three-necked flask equipped with a mechanical stirrer and an addition funnel. The mixture was cooled to -10° to -15° C. and an ice-cold solution of bromine (53 ml, 1.04 moles) in 500 ml anhydrous methanol was added dropwise with stirring. Four hours after the addition of the bromine solution, the mixture was filtered by suction. The excess solvent was removed on a rotatory evaporator and the crude product was distilled under reduced pressure to give colorless 2-methoxymethyl-2,5-dimethoxy-2,5-dihydrofuran (118.3 g, 65%), bp. 57°-58° C. (0.2 mm Hg), n21 -1.4414.

reactant | 2-Methoxymethyl furan | 1.07 moles, 120.4 g | COCC=1OC=CC1 | C6H8O2
reactant | sodium carbonate | 190 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
reactant | bromine | 1.04 moles, 53 ml | BrBr | Br2
solvent | methanol | 500 ml | CO | CH4O
solvent | methanol | 6.18 moles, 250 ml | CO | CH4O
product | 2-methoxymethyl-2,5-dimethoxy-2,5-dihydrofuran | 118.3 g, 65% | COCC1(OC(C=C1)OC)OC | C8H14O4
